US06410585B1
5-[(2S)-3-{[2-(Benzylsulfanyl)ethyl]amino}-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carbomethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (100 mg, 0.18 mmol) and 2-(benzylsulfanyl)-1-ethanamine hydrochloride (44 mg, 0.22 mmol) according to Method C with HPLC purification to give the title compound (15 mg). 1H-NMR (400 MHz, CD3OD) d 7.76 (s, 1H), 6.97 (d, J=8.6 Hz, 1H), 4.77 (s, 2H), 4.51 (m, 1H), 4.24 (dd, J=5.1 Hz, J=9.3 Hz, 1H), 3.71 (s, 2H), 3.19 (m, 1H), 2.74 (m, 1H), 2.41 (m, 2H), 1.35 (s, 9H); HRMS m/z 679.2542 (calc. of monoisotopic mass for C34H41N3O9S gives 679.2564).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 2-(benzylsulfanyl)-1-ethanamine hydrochloride | 0.22 mmol, 44 mg | Cl.C(C1=CC=CC=C1)SCCN
product | 5-[(2S)-3-{[2-(Benzylsulfanyl)ethyl]amino}-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carbomethoxy)benzoic Acid | 15 mg | C(C1=CC=CC=C1)SCCNC([C@H](CC=1C=CC(=C(C(=O)O)C1)C(=O)OC)NC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C35H41N3O8S
